US05434150
4-[2-(4-Benzyl-piperazino)-ethylamino ]-3-nitro-benzoic acid-[N-(2-carboxy-ethyl)-amide]
8.2 g of 4-chloro-3-nitro-benzoic acid-[N-(2-carboxy-ethyl)-amide](prepared from 4-chloro-3-nitro-benzoylchloride and β-alanine-methylester and subsequent saponification with 48% hydrobromic acid), 6.6 g of 2-(4-benzyl-piperazino)-ethylamine (prepared from 1-benzyl-piperazine and 2-bromo-ethylamine-hydrobromide in ethanol with the addition of potassium tert.butoxide), 4.2 ml of triethylamine and 25 ml of water are heated over a steam bath for 8 hours. The mixture is evaporated down and purified by column chromatography (silica gel; methylene chloride/methanol/glacial acetic acid=8:2:0.1 to 2:1:0.1). Yield: 9.2 g (67% of theory), Rf value: 0.47 (silica gel; methylene chloride/methanol/conc. ammonia=8:2:0.1)

reactant | 4-chloro-3-nitro-benzoic acid-[N-(2-carboxy-ethyl)-amide] | 8.2 g | C(=O)(O)CCNC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C10H9ClN2O5
reactant | 2-(4-benzyl-piperazino)-ethylamine | 6.6 g | C(C1=CC=CC=C1)N1CCN(CC1)CCN | C13H21N3
reactant | 1-benzyl-piperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 2-bromo-ethylamine-hydrobromide | Br.BrCCN
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
product | 4-[2-(4-Benzyl-piperazino)-ethylamino ]-3-nitro-benzoic acid-[N-(2-carboxy-ethyl)-amide] | C(=O)(O)CCNC(C1=CC(=C(C=C1)NCCN1CCN(CC1)CC1=CC=CC=C1)[N+](=O)[O-])=O | C23H29N5O5
